US05936089
A. 4-Phenoxy-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 403 mg (2.0 mmol) of N-tert-butoxycarbonyl-4-hydroxypiperidine, 188 mg (2.0 mmol) of phenol, and 525 mg (2.0 mmol) of triphenylphosphine in 50 mL of THF was added 0.315 mL of diethylazodicarboxylate. The resulting solution was stirred at room temperature for 2 days. Concentration in vacuo and purification via silica gel chromatography (10:1 hexane-EtOAc) provided 366 mg of the title compound as a colorless oil.

reactant | N-tert-butoxycarbonyl-4-hydroxypiperidine | 2.0 mmol, 403 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | phenol | 2.0 mmol, 188 mg | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 2.0 mmol, 525 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.315 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-Phenoxy-piperidine-1-carboxylic acid tert-butyl ester | 366 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=CC=C1 | C16H23NO3
